US05280025
(5) Synthesis of 5-chloro-6-(1-methoxyethyl)-4-(1-phenylethylamino)pyrimidine (Compound 21)
In 20 ml of methanol was dissolved 1.11 g of 5-chloro-6-(1-chloroethyl)-4-(1-phenylethylamino)pyrimidine, and to the mixture was added 1.3 g of a 28% sodium methoxide methanol solution. The mixture was stirred at 60° C. for 13 hours.

reactant | 5-chloro-6-(1-chloroethyl)-4-(1-phenylethylamino)pyrimidine | 1.11 g | ClC=1C(=NC=NC1C(C)Cl)NC(C)C1=CC=CC=C1 | C14H15Cl2N3
reactant | sodium methoxide methanol | CO.C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 5-chloro-6-(1-methoxyethyl)-4-(1-phenylethylamino)pyrimidine | ClC=1C(=NC=NC1C(C)OC)NC(C)C1=CC=CC=C1 | C15H18ClN3O
